US05110955
Acetic anhydride (0.2 ml) was dissolved at 0° C. in pyridine (10 ml) together with (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-penten-1-ol (0.39 g; 1.4 mmol). A spatula tip of 4-dimethylaminopyridine was added and the reaction mixture was left at 0° C. for 20 minutes. Thereafter, the mixture was poured into 150 ml of ice-cold 2N hydrochloric acid and extracted with ether. The extracts were washed with water, dried briefly and freed from solvent, yielding 0.39 g of (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl acetate as an almost colourless oil.

reactant | Acetic anhydride | 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-penten-1-ol | 1.4 mmol, 0.39 g | COC1=C(C(=C(C(=C1C)C)OC)C)CC\C(=C/CO)\C | C17H26O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | (Z)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl acetate | 0.39 g | C(C)(=O)OC\C=C(/CCC1=C(C(=C(C(=C1C)OC)C)C)OC)\C | C19H28O4
